US08633237B2
f) (S)-benzyl 5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-ylcarbamate
To (S)-methyl 3-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate (2.90 mmol, 1.4 g) at 0° C. in THF (29.0 mL) under an argon atmosphere was added Lithium aluminium hydride in THF (2.90 mmol, 2.90 mL) dropwise. The reaction was left to stir for 1.5 hrs at 0° C. The reaction was quenched with MeOH before the addition of 5N HCl (aq) to adjust the pH to 3. The reaction mix was diluted with DCM before washing with water (×1) followed by brine (×1). The DCM layer was dried over MgSO4 before removing the solvent in vacuo to give the product as a clear glassy solid (1.34 g, 102%). MS (ESI): m/z [M+H]+ 456.1

reactant | (S)-methyl 3-((2-(benzyloxycarbonylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)benzoate | 2.90 mmol, 1.4 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C27H24F3NO4
reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 29.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.90 mmol, 2.90 mL | C1CCOC1 | C4H8O
product | (S)-benzyl 5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 1.34 g, 102% | OCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NC(OCC2=CC=CC=C2)=O)C=C(C1)C(F)(F)F | C26H24F3NO3
